US05824661
Synthesis of [1-Hydroxy-2-(2-mercaptocyclopentyl)ethylidene]bis[Phosphonic Acid]
Using essentially the same procedure as described in Example K, [1-hydroxy-2-(2-(acetylthio)cyclohexyl)-ethylidene]bis[phosphonic acid], prepared as described in Example L hereinbefore, is converted to [1-hydroxy-2-(2-mercaptocyclohexyl)-ethylidene]bis[phosphonic acid].

reactant | [1-hydroxy-2-(2-(acetylthio)cyclohexyl)-ethylidene]bis[phosphonic acid] | OC(CC1C(CCCC1)SC(C)=O)(P(O)(O)=O)P(O)(O)=O | C10H20O8P2S
reactant | [1-hydroxy-2-(2-mercaptocyclohexyl)-ethylidene]bis[phosphonic acid] | OC(CC1C(CCCC1)S)(P(O)(O)=O)P(O)(O)=O | C8H18O7P2S
product | [1-Hydroxy-2-(2-mercaptocyclopentyl)ethylidene]bis[Phosphonic Acid] | OC(CC1C(CCC1)S)(P(O)(O)=O)P(O)(O)=O | C7H16O7P2S
